US04011277
In a 1-l. three-necked and round-bottomed flask were placed 10.5 g of 3,7,11-trimethyldodeca-l-yne-3ol, 5.0 g of ammonium chloride, 12.0 g of tetramethylethylenediamine and 675 ml of pyridine. The mixture was reacted at temperatures of 50° - 55°C for 6 hours under an oxygen atmosphere. After completion of the reaction, the alcohol as a starting material was not detected. After distillation of pyridine from the reaction mixture, 300 ml of benzene and 200 ml of water were added to the residue and after decantation, the organic layer was washed with 3N--H2SO4 and then water and dried. The benzene solution was distilled off to give 8.55 g of 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol as viscous liquid. This compound was treated with active carbon and purified in the same manner as in reference 1.

reactant | 3,7,11-trimethyldodeca-l-yne-3ol | 10.5 g | CC(C#C)(CCCC(CCCC(C)C)C)O | C15H28O
reactant | ammonium chloride | 5.0 g | [Cl-].[NH4+]
reactant | tetramethylethylenediamine | 12.0 g | CN(CCN(C)C)C | C6H16N2
solvent | pyridine | 675 ml | N1=CC=CC=C1 | C5H5N
product | 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol | 8.55 g | CC(C)CCCC(CCCC(C#CC#CC(CCCC(CCCC(C)C)C)(O)C)(O)C)C | C30H54O2
